US05681858
(vi) 4-{trans-3-(4-Methoxyphenoxy)cyclobutyl}-3-butyn-2-ol
A solution of {trans-3-(4-methoxyphenoxy)cyclobutyl }ethyne (6.40 g, 32.0 mmol) in THF (80 ml) at -78° C. under argon atmosphere was added n-butyllithium (23.7 ml, 38.0 mmol). The mixture was stirred for 0.5 h at the same temperature and then allowed to warm to -40° C. over 1 h. The mixture was recooled to -78° C., a solution of dry acetaldehyde (3.52 g, 80.0 mmol) in THF (20 ml) added to the mixture and the whole stirred overnight at room temperature. The reaction was quenched with saturated aqueous ammonium chloride solution (100 ml) and the whole extracted with ethyl acetate (200 ml). The combined extracts were washed with brine (200 ml), dried (MgSO4) and concentrated in vacuo. Purification by column chromatography {SiO2, 500 g; hexane/ethyl acetate (3/1)} afforded 7.58 g (97%) of 4-{trans-3-(4-methoxyphenoxy)cyclobutyl }-3-butyn-2-ol as white solids: 1H NMR δ6.85-6.68 (m, 4H), 4.89-4.78 (m, 1H), 4.62-4.50 (m, 1H), 3.76 (s, 3H), 3.22-3.09 (m, 1H), 2.59-2.40 (m, 4H), 1.65 (s, 1H), 1.45 (d, J=6.9 Hz, 3H).

reactant | {trans-3-(4-methoxyphenoxy)cyclobutyl }ethyne | 32.0 mmol, 6.40 g | COC1=CC=C(O[C@@H]2C[C@H](C2)C#C)C=C1 | C13H14O2
reactant | n-butyllithium | 38.0 mmol, 23.7 ml | C(CCC)[Li]
reactant | acetaldehyde | 80.0 mmol, 3.52 g | C(C)=O | C2H4O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-{trans-3-(4-Methoxyphenoxy)cyclobutyl}-3-butyn-2-ol | COC1=CC=C(O[C@@H]2C[C@H](C2)C#CC(C)O)C=C1 | C15H18O3
